US04013652
1,2,7,8,9,10-hexahydro-8-methylpyrido[3',4':4,5]pyrrolo[1,2,3-de][1,4]benzoxazine hydrochloride
By a procedure similar to Example 110, 4-amino-3,4-dihydro-2H-1,4-benzoxazine hydrochloride is reacted with 1-methyl-4-piperidone to yield the title compound, m.p. 245°-246° .

reactant | 4-amino-3,4-dihydro-2H-1,4-benzoxazine hydrochloride | Cl.NN1CCOC2=C1C=CC=C2
reactant | 1-methyl-4-piperidone | CN1CCC(CC1)=O | C6H11NO
product | 1,2,7,8,9,10-hexahydro-8-methylpyrido[3',4':4,5]pyrrolo[1,2,3-de][1,4]benzoxazine hydrochloride | Cl.CN1CC2=C(N3CCOC4=C3C2=CC=C4)CC1 | InChI=1S/C14H16N2O.ClH/c1-15-6-5-12-11(9-15)10-3-2-4-13-14(10)16(12)7-8-17-13;/h2-4H,5-9H2,1H3;1H
